US04923993
Preparation of 2-cyano-1,4-dihydro-1-dimethylamino-5-ethylpyridine
12.6 g of 1-dimethylamino-1-aza-3-ethyl-1,3-butadiene, 8 ml of 2-chloroacrylonitrile and 27.8 ml of triethylamine are heated in 40 ml of dioxane for 31/2 hours to 70° C. The reaction mixture is concentrated by evaporation and the residue is chromatographed over silica gel with a 16:1 mixture of hexane/ethyl acetate, affording 8.2 g of the title compound as a yellow oil which, on standing at room temperature, spontaneously reacts further to 2-cyano-5-ethylpyridine, with elimination of dimethylamine.

reactant | 1-dimethylamino-1-aza-3-ethyl-1,3-butadiene | 12.6 g | CN(C=CC(=C)NC)C | C7H14N2
reactant | 2-chloroacrylonitrile | 8 ml | ClC(C#N)=C | C3H2ClN
reactant | triethylamine | 27.8 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 2-cyano-1,4-dihydro-1-dimethylamino-5-ethylpyridine | 8.2 g | C(#N)C=1N(C=C(CC1)CC)N(C)C | C10H15N3
